US04381401
Preparation of N-(2-Hydroxyethyl)-N'-phenyl-1,2-ethanediamine
A mixture of aniline hydrochloride (19.5 g, 0.15 mole), 3-(2-hydroxyethyl)-2-oxazolidinone (20.6 g, 0.157 mole) and 50 ml of 2-(2-methoxyethoxy)ethanol was heated to 168° C. for 16 hours. The orange solution was cooled to room temperature and worked up in a procedure similar to that cited in Example 1. Kugelrohr distillation at 150° C. to 160° C. (0.2 to 0.3 mm) gave a 67 percent yield of the material as a pale yellow oil. Spectral evidence confirmed its structure.

reactant | aniline hydrochloride | 0.15 mole, 19.5 g | Cl.NC1=CC=CC=C1
reactant | 3-(2-hydroxyethyl)-2-oxazolidinone | 0.157 mole, 20.6 g | OCCN1C(OCC1)=O | C5H9NO3
solvent | 2-(2-methoxyethoxy)ethanol | 50 ml | COCCOCCO | C5H12O3
product | N-(2-Hydroxyethyl)-N'-phenyl-1,2-ethanediamine | 67 percent yield | OCCNCCNC1=CC=CC=C1 | C10H16N2O
